US06992085B2
Step A: 4-(4-Bromobutoxy)-3-methoxybenzonitrile
The procedure is as for Example 53, Step A, using as substrate 4-hydroxy-3-methoxybenzonitrile and 1,4-dibromobutane.

reactant | 4-hydroxy-3-methoxybenzonitrile | OC1=C(C=C(C#N)C=C1)OC | C8H7NO2
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | 4-(4-Bromobutoxy)-3-methoxybenzonitrile | BrCCCCOC1=C(C=C(C#N)C=C1)OC | C12H14BrNO2
